US07531532B2
2-{[4-(2-Dimethylaminoethyl)piperazin-1-yl]carbonylamino}-4-(4-{3-[2-(4-fluorophenyl)acetyl]ureido}phenoxy)pyridine
To a solution of 4-(4-aminophenoxy)-2-{[4-(2-dimethylaminoethyl)piperazin-1-yl]carbonylamino}pyridine (86.7 mg) in tetrahydrofuran (2.5 ml) were added a solution of 2-(4-fluorophenyl)acetyl isocyanate in tetrahydrofuran (0.25 M, 5.4 ml) and diisopropylethylamine (0.235 ml) at room temperature, followed by stirring overnight. The reaction mixture was partitioned between ethyl acetate and a saturated aqueous solution of sodium hydrogencarbonate. The organic layer was washed with brine and dried over anhydrous sodium sulfate. The solvent was evaporated to give a residue, which was then purified by silica gel column chromatography (Fuji Silysia NH, eluent; ethyl acetate, then ethyl acetate:methanol=95:5) to provide the titled compound (36.2 mg, 29%) as white powder.

reactant | 4-(4-aminophenoxy)-2-{[4-(2-dimethylaminoethyl)piperazin-1-yl]carbonylamino}pyridine | 86.7 mg | NC1=CC=C(OC2=CC(=NC=C2)NC(=O)N2CCN(CC2)CCN(C)C)C=C1 | C20H28N6O2
reactant | 2-(4-fluorophenyl)acetyl isocyanate | FC1=CC=C(C=C1)CC(=O)N=C=O | C9H6FNO2
solvent | tetrahydrofuran | 2.5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.25 M, 5.4 ml | O1CCCC1 | C4H8O
solvent | diisopropylethylamine | 0.235 ml | C(C)(C)N(CC)C(C)C | C8H19N
product | 2-{[4-(2-Dimethylaminoethyl)piperazin-1-yl]carbonylamino}-4-(4-{3-[2-(4-fluorophenyl)acetyl]ureido}phenoxy)pyridine | 36.2 mg, 29% | CN(CCN1CCN(CC1)C(=O)NC1=NC=CC(=C1)OC1=CC=C(C=C1)NC(=O)NC(CC1=CC=C(C=C1)F)=O)C | C29H34FN7O4
